US07109354B2
a) (2-Iodo-3-methyl-benzyloxy)-acetic acid tert-butyl ester
Sodium hydride (53 mg, 2.2 mmol) was added to a 0° C. solution of 2-iodo-3-methyl-phenyl-methanol ((Example 5: step a) 492 mg, 2 mmol) in DMF (20 mL). The solution was stirred at 0° C. for 30 min and tert-butyl bromoacetate (0.4 mL, 2.5 mmol) was added. The solution was warmed to rt over 15 min and stirred for 3 h at rt. EtOAc (80 mL) and water (40 mL) were added, the layers were separated, and the organic layer was washed with water (6×20 mL), brine (30 mL), and was dried over sodium sulfate. Concentration of the solution followed by SiO2 flash column chromatography (5–10% EtOAc in hexanes) yielded the title compound (0.571 g, 79%) as an oil. 1H-NMR (CDCl3): δ 7.36 (dd, 1H, J=1.4, 7.4 Hz), 7.30 (t, 1H, 7.4 Hz), 7.24 (dd, 1H, J=1.4, 7.4 Hz), 4.72 (s, 2H), 4.15 (s, 2H), 2.53 (s, 3H), 1.56 (s, 9H).

reactant | Sodium hydride | 2.2 mmol, 53 mg | [H-].[Na+]
reactant | 2-iodo-3-methyl-phenyl-methanol | IC1=C(C=CC=C1C)CO | C8H9IO
reactant | tert-butyl bromoacetate | 2.5 mmol, 0.4 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 40 mL | O | H2O
product | (2-Iodo-3-methyl-benzyloxy)-acetic acid tert-butyl ester | 0.571 g, 79% | C(C)(C)(C)OC(COCC1=C(C(=CC=C1)C)I)=O | C14H19IO3
